US08372367B2
It will be appreciated from the foregoing that impure boron, in the form of aqueous boric acid, can be converted to a borate ester, such as trimethyl borate. The ester is may then be removed from the solution, together with methanol and water, by distillation (followed by condensation and cooling) to yield a purified methanol-trimethyl borate solution. Typically, this distilled solution will contain about 75% by mass trimethyl borate. This highly concentrated solution is then mixed with water to obtain boric acid via the hydrolysis reaction of REACTION 3: B(OCH3)3+3H2O⇄B(OH)3+3CH3OH  (REACTION 3) Addition of water to the trimethyl borate solution converts the trimethyl borate to purified boric acid, which can then be recrystallized or precipitated from the solution. The methanol and water may then be distilled and recovered for reuse.

reactant | boron | [B] | B
reactant | boric acid | B(O)(O)O | BH3O3
reactant | trimethyl borate | B(OC)(OC)OC | C3H9BO3
product | methanol trimethyl borate | CO.B(OC)(OC)OC | InChI=1S/C3H9BO3.CH4O/c1-5-4(6-2)7-3;1-2/h1-3H3;2H,1H3
